US06780870B2
N-(4-fluorobenzyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidin-2-amine
A stirred solution of 2-(methylsulfonyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine (1 g, 2.629 mmol) in N-methylpyrrolidone (10 ml) was treated with 4-fluorobenzylamine (0.60 ml). The mixture was stirred at room temp for 18 h and was then diluted with water (50 ml). This gave the title compound as a colourless solid which was collected by filtration and dried (0.72 g).

reactant | 2-(methylsulfonyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine | 2.629 mmol, 1 g | CS(=O)(=O)C1=NC(=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C13H11F3N2O4S2
reactant | 4-fluorobenzylamine | 0.60 ml | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 50 ml | O | H2O
product | N-(4-fluorobenzyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidin-2-amine | FC1=CC=C(CNC2=NC(=CC(=N2)C2=CC=C(C=C2)S(=O)(=O)C)C(F)(F)F)C=C1 | C19H15F4N3O2S
